US08053440B2
A solution of 4-hydroxy-3,5-dimethoxybenzaldehyde (1.0 g, 6.66 mmol) in DMF (10 mL) was cooled to 0° C. under nitrogen. NaH (0.4 g, 10 mmol, 60% in oil) was added portion-wise. The reaction was stirred for 30 min, then 2-bromoacetamide (0.918 g, 6.66 mmol) was added and stirring was continued for 36 h at room temperature. The DMF was removed under reduced pressure and water (50 mL) was added. The mixture was extracted with EtOAc (50 mL×3). The combined organic layers were washed with an aqueous solution of NaOH (50 mL, 10%), washed with water (50 mL) and brine solution (50 mL) and dried over MgSO4 and concentrated to give 0.6 g of crude intermediate, which was purified by flash column chromatography to provide the desired intermediate (366 mg, 26%), as a white solid. A mixture of 2-amino-4,5-dimethoxybenzamide (0.2 g, 1.019 mmol), 2-(4-formyl-2,6-dimethyl-phenoxy acetamide (0.211 g, 1.019 mmol), sodium hydrogensulfite (0.116 g, 1.121 mmol) and p-toluenesulfonic acid (20 mg) in N,N-dimethyl acetamide (5 mL) was stirred at 150° C. for 16 h under nitrogen. The reaction mixture was cooled to room temperature and water (50 mL) was added. The white precipitate was filtered off and washed with cold water (30 mL×2) and dried under high vacuum to provide 2-(4-(6,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)acetamide (300 mg, 76%) as a off white solid. Selected data: MS (ES) m/z: 384.1 (M+1); MP 354-356° C.

reactant | 2-amino-4,5-dimethoxybenzamide | 1.019 mmol, 0.2 g | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | 4-formyl-2,6-dimethyl-phenoxy acetamide | 1.019 mmol, 0.211 g | C(=O)C1=CC(=C(OCC(=O)N)C(=C1)C)C | C11H13NO3
reactant | sodium hydrogensulfite | 1.121 mmol, 0.116 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethyl acetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 50 mL | O | H2O
product | 2-(4-(6,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)acetamide | 300 mg, 76% | COC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=C(OCC(=O)N)C(=C1)C)C)=O | C20H21N3O5
